US06984637B2
3-methoxyphenyl isocyanate (37 μl, 0.28 mmol) was added to a solution of provide 1(RS)-[(3,4-dichlorobenzyl)pyridin-4-yl]-2-methylpropylamine (88 mg, 0.28 mmol) in methylene chloride solution (2 ml) at room temperature. After 1 h, the reaction mixture was diluted with ethyl acetate and washed with sodium bicarbonate solution (5 ml). The organic layer was separated and dried over magnesium sulfate, filtered and concentrated to provide 1-{1(RS)-[1-(3,4-dichlorobenzyl)piperidin-4-yl]-2-methylpropyl)}-3-(3-methoxyphenyl)urea. (104 mg) as a white solid. mp 161.4-161.8° C.

reactant | 3-methoxyphenyl isocyanate | 0.28 mmol, 37 μl | COC=1C=C(C=CC1)N=C=O | C8H7NO2
reactant | 1(RS)-[(3,4-dichlorobenzyl)pyridin-4-yl]-2-methylpropylamine | 0.28 mmol, 88 mg | ClC=1C=C(CC2=NC=CC(=C2)C(C(C)C)N)C=CC1Cl | C16H18Cl2N2
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(3-methoxyphenyl)urea | COC=1C=C(C=CC1)NC(N)=O | C8H10N2O2
